US03998832
This method represents a modification of methods described by Martensson and Nilson, Acta Chem. Scand. 19 (3), 711-12 (1965) -- CA-63-6968h. Thus, 1 part of 2-(2-phenylbenzyl) pyridine is reacted with 1 part of n-Butyl lithium in tetrahydrofuran at -70° C. and then reacted with 1 part of 2-(2-chloroethyl)-2-azabicyclo[2.2.2 ]octane to provide 2-[3,3-diphenyl-3-(2-pyridyl)propyl]-2-azabicyclo[2.2.2 ]octane.

reactant | 2-(2-phenylbenzyl) pyridine | C1(=CC=CC=C1)C1=C(CC2=NC=CC=C2)C=CC=C1 | C18H15N
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2-(2-chloroethyl)-2-azabicyclo[2.2.2 ]octane | ClCCN1C2CCC(C1)CC2 | C9H16ClN
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[3,3-diphenyl-3-(2-pyridyl)propyl]-2-azabicyclo[2.2.2 ]octane | C1(=CC=CC=C1)C(CCN1C2CCC(C1)CC2)(C2=NC=CC=C2)C2=CC=CC=C2 | C27H30N2
